US04407798
To a solution of methyl 2-cyano-2-ethoxyiminoacetate (syn isomer) (4.7 g) in methanol (50 ml) was added 1 N methanolic solution (5 ml) of sodium methoxide under cooling in an ice-bath and stirring, which was continued for 20 minutes in an ice-bath and 15 minutes at room temperature. The mixture was neutralized to the end point of phenolphthalein with 1 N methanolic solution of acetic acid and evaporated. The residue was dissolved in methylene chloride (80 ml), washed with water, dried over magnesium sulfate and evaporated to give methyl 3-imino-3-methoxy-2-ethoxyiminopropionate (syn isomer) (4.8 g) as an oil.

reactant | methyl 2-cyano-2-ethoxyiminoacetate | 4.7 g | C(#N)C(C(=O)OC)=NOCC | C6H8N2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | methyl 3-imino-3-methoxy-2-ethoxyiminopropionate | 4.8 g | N=C(C(C(=O)OC)=NOCC)OC | C7H12N2O4
